US06008230
A suspension of 8-(2,6-dichlorobenzoylamino)-4-methylaminoquinoline (130 mg) in acetic anhydride (2 ml) was heated at 120° C. for 3 hours. The solvent was removed in vacuo and the residue was dissolved in methanol (3 ml). To a solution was added 1N sodium hydroxide solution (0.5 ml) and the mixture was stirred for 30 minutes. The solvent was removed in vacuo and the residue was washed with hot 50% ethanol (2 ml) and filtered. The residue was washed with hot 95% ethanol (1 ml) and the filtrate was allowed to stand to ambient temperature. The resulting precipitates were collected by filtration and dried to give 8-(2,6-dichlorobenzoylamino)-4-(N-methylacetamido)quinoline (90 mg).

reactant | 8-(2,6-dichlorobenzoylamino)-4-methylaminoquinoline | 130 mg | ClC1=C(C(=O)NC=2C=CC=C3C(=CC=NC23)NC)C(=CC=C1)Cl | C17H13Cl2N3O
reactant | acetic anhydride | 2 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 8-(2,6-dichlorobenzoylamino)-4-(N-methylacetamido)quinoline | 90 mg | ClC1=C(C(=O)NC=2C=CC=C3C(=CC=NC23)N(C(C)=O)C)C(=CC=C1)Cl | C19H15Cl2N3O2
